US07250515B2
A mixture of 6-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester (56 g, 0.16 mol) in phosphorus oxychloride (180 mL) was refluxed under N2 for 14 h. After cooling, the solvent was removed by rotary evaporator and then by the oil pump. Sat. sodium bicarbonate (200 mL) was slowly added. The solid was collected by filtration, washed with sat. sodium bicarbonate, water and dried to obtain 4-chloro-6-iodo-quinoline-3-carboxylic acid ethyl ester (58 g, 98%) as a yellow solid.

reactant | 6-iodo-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 0.16 mol, 56 g | C(C)OC(=O)C1=CNC2=CC=C(C=C2C1=O)I | C12H10INO3
reactant | phosphorus oxychloride | 180 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-6-iodo-quinoline-3-carboxylic acid ethyl ester | 58 g, 98% | C(C)OC(=O)C=1C=NC2=CC=C(C=C2C1Cl)I | C12H9ClINO2
